US06013649
Part A: A solution of 10 g (78 mmol) of 4-fluorothiophenol and 8 g (86 mM) of 3-chloro-1-propanol in 80 mL of anhydrous DMF was purged with nitrogen for 20 min., then treated with 32 g (234 mM) of potassium carbonate. After one hour, the reaction mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and water. The layers were separated and the organic layer was washed with brine (3×), dried (MgSO4), and concentrated to afford 16 g of crude product. The crude product was chromatographed on silica gel using 30-45% ethyl acetate/hexane to yield 12 g of pure 3-[(4-fluorophenyl)thio]propan-1-ol, m/z=203 (M+NH4).

reactant | 4-fluorothiophenol | 78 mmol, 10 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | 3-chloro-1-propanol | 86 mM, 8 g | ClCCCO | C3H7ClO
reactant | potassium carbonate | 234 mM, 32 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3-[(4-fluorophenyl)thio]propan-1-ol | 12 g | FC1=CC=C(C=C1)SCCCO | C9H11FOS
